US04744815
After 2.35 g (0.021 mol) of 1-ethyl-5-hydroxypyrazole was dissolved in 20 ml of tert.-amyl alcohole, the mixture was succesively added with 4.69 g (0.02 mol) of 2-chloro-4-methanesulfonyl benzoic acid, 5.33 g (0.021 mol) of N,N'-dicyclohexyl carbodiimide and 1.52 g (0.011 mol) of anhydrous potassium carbonate, and heated at 50°-60° C. for 5 hours, followed by additional stirring for 1 hour at 90° C. Then, the reaction was ceased. After cooling, solvent was distilled off from the reaction solution, and the residue was added with 50 ml of 5% aqueous solution of potassium hydroxide to dissolve the soluble matter. After insoluble matter was filtered off, the aqueous layer was washed with chloroform and separated. This operation was twice carried out. The obtained aqueous layer was adjusted to pH <1 by adding concentrated hydrochloric acid, and the precipitated solid product was dissolved in chloroform and extracted. After the chloroform layer was dried over sodium sulfate anhydrate, the solvent was distilled off to give a crude product of the objective product. Then, the crude product was recrystallized from 95% ethanol to obtain 5.38 g of 1-ethyl-4-(2-chloro-4-methanesulfonylbenzoyl)-5-hydroxypyrazole.

reactant | 1-ethyl-5-hydroxypyrazole | 0.021 mol, 2.35 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 2-chloro-4-methanesulfonyl benzoic acid | 0.02 mol, 4.69 g | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7ClO4S
reactant | N,N'-dicyclohexyl carbodiimide | 0.021 mol, 5.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 0.011 mol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
product | 1-ethyl-4-(2-chloro-4-methanesulfonylbenzoyl)-5-hydroxypyrazole | 5.38 g, Yield: 82% | C(C)N1N=CC(=C1O)C(C1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C13H13ClN2O4S
